US09399637B2
Step 4) 1,4-dioxa-10-aza-dispiro[4.2.4.2]tetradecane
To a suspension of LiAlH4 (21 g, 558.56 mmol) in anhydrous THF (500 mL) was added a solution of 1,4-dioxa-10-aza-dispiro[4.2.4.2]tetradecan-9-one (59 g, 279.28 mmol) in anhydrous THF (400 mL) dropwise at 0° C. in 1 h. The reaction mixture was heated to reflux and stirred for 2 h, then quenched with water at 0° C. until no bubble escaped and filtered. The filtere cake was washed with a mixture of DCM and MeOH (1/1 (v/v), 500 mL). The filterate was concentrated in vacuo and the residue was purified by silica gel column chromatography (MeOH/DCM (v/v)=1/10) to give the product as a yellow solid (52 g, 94%).

reactant | LiAlH4 | 558.56 mmol, 21 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | 1,4-dioxa-10-aza-dispiro[4.2.4.2]tetradecan-9-one | 279.28 mmol, 59 g | O1CCOC12CCC1(C(NCC1)=O)CC2 | C11H17NO3
solvent | THF | 500 mL | C1CCOC1 | C4H8O
solvent | THF | 400 mL | C1CCOC1 | C4H8O
product | 1,4-dioxa-10-aza-dispiro[4.2.4.2]tetradecane | 52 g, 94% | O1CCOC12CCC1(CNCC1)CC2 | C11H19NO2
